US08802659B2
(R)-1-[5-(4-tert-Butyl-cyclohexyloxy)-benzothiazol-2-ylmethyl]-pyrrolidine-3-carboxylic acid
(R)-Pyrrolidine-3-carboxylic acid (100 mg, 0.9 mmol) (HCl salt) was combined with N,N-Diisopropylethylamine (300 uL, 2 mmol) in Methanol (4.0 mL, 98 mmol) and stirred for 15 min. 5-(4-tert-Butyl-cyclohexyloxy)-benzothiazole-2-carbaldehyde (1.0E2 mg, 0.33 mmol) was then added and the mixture was stirred at RT for 30 minutes. After 30 minutes the reaction was cooled to 0° C. and Sodium cyanoborohydride (100 mg, 2 mmol) was added in two portions. The reaction was then allowed to warm to RT while stirring overnight. The reaction was then purified directly on the Gilson (10-90% CH3CN/H2O (0.1% TFA), 19×150 cm C18, RT=8.6 min) The product was then dried on the highvac to give the title compound as a white solid. 1H NMR (400 MHz, MeOD) Shift=8.00-7.78 (m, 1H), 7.69-7.51 (m, 1H), 7.27-7.05 (m, 1H), 5.09-4.93 (m, 3H), 4.39-4.21 (m, 1H), 4.01-3.39 (m, 4H), 2.65-2.18 (m, 3H), 2.01-1.80 (m, 2H), 1.53-1.04 (m, 6H), 0.92 (s, 9H). MS (ESI, M+1): 417.30.

reactant | (R)-Pyrrolidine-3-carboxylic acid | 0.9 mmol, 100 mg | N1C[C@@H](CC1)C(=O)O | C5H9NO2
reactant | N,N-Diisopropylethylamine | 2 mmol, 300 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Methanol | 98 mmol, 4.0 mL | CO | CH4O
reactant | 5-(4-tert-Butyl-cyclohexyloxy)-benzothiazole-2-carbaldehyde | 0.33 mmol, 1.0E2 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=CC2=C(N=C(S2)C=O)C1 | C18H23NO2S
reactant | Sodium cyanoborohydride | 2 mmol, 100 mg | C(#N)[BH3-].[Na+]
product | (R)-1-[5-(4-tert-Butyl-cyclohexyloxy)-benzothiazol-2-ylmethyl]-pyrrolidine-3-carboxylic acid | C(C)(C)(C)C1CCC(CC1)OC=1C=CC2=C(N=C(S2)CN2C[C@@H](CC2)C(=O)O)C1 | C23H32N2O3S
